US09102614B2
Preparation of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetate:
To a solution of ethyl 2-(5-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (100 mg, 0.20 mmol) and N,N-dimethylprop-2-yn-1-amine (0.065 mL, 0.61 mmol) in anhydrous tetrahydrofuran was added copper iodide (8 mg, 0.04 mmol) and PdCl2(PPh3)2 (14 mg, 0.02 mmol). The reaction was heated to 100° C. overnight. After cooling to room temperature the reaction was charged with PdCl2(PPh3)2 (14 mg, 0.02 mmol), copper iodide (8 mg, 0.04 mmol), N,N-dimethylprop-2-yn-1-amine (0.065 mL, 0.61 mmol) and triethylamine (1 mL). The reaction was heated to 100° C. overnight. To the reaction was then added N,N-dimethylprop-2-yn-1-amine (0.065 mL, 0.61 mmol) and heated to 100° C. overnight. The crude reaction mixture was absorbed onto silica gel and purified by flash column chromatography (silica gel, ethyl acetate/hexanes, methanol/ethyl acetate) to give a yellow oil (6.5 mg). LCMS-ESI+ (m/z): [M+H]+ calcd for C30H35ClNO3: 492.22; found: 492.15.

reactant | ethyl 2-(5-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.20 mmol, 100 mg | BrC1=C2C=C(C(=C(C2=CC=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | N,N-dimethylprop-2-yn-1-amine | 0.61 mmol, 0.065 mL | CN(CC#C)C | C5H9N
reactant | N,N-dimethylprop-2-yn-1-amine | 0.61 mmol, 0.065 mL | CN(CC#C)C | C5H9N
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylprop-2-yn-1-amine | 0.61 mmol, 0.065 mL | CN(CC#C)C | C5H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.04 mmol, 8 mg | [Cu](I)I
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.04 mmol, 8 mg | [Cu](I)I
product | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetate | 6.5 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C#CCN(C)C)C1=CC=C(C=C1)Cl | C30H34ClNO3
